US05665730
1. 3-Formyl-8-(2-methoxycarbonylamino-6-methylbenzylamino)-2-methylimidazo[1,2-a]pyridine
A suspension of 400 mg of commercial 80% sodium hydride in 10 ml of dry tetrahydrofuran is added to a solution of 2 g of 8-amino-3-formyl-2-methylimidazo[1,2-a]pyridine in 40 ml of dry tetrahydrofuran at RT. Brief heating at 50° C. is followed by vigorous evolution of gas. After the evolution of gas is complete, the mixture is cooled to 0° C., and a solution of 3.9 g of 2-methoxycarbonylamino-6-methylbenzyl bromide in 40 ml of dry tetrahydrofuran is added dropwise. The mixture is again heated to 50° C. and kept at this temperature for 3 h. It is then poured into ice-water, neutralized with a little dilute hydrochloric acid and extracted four times with ethyl acetate. The collected organic phases are washed with water and dried over sodium sulfate. The solvent is stripped off in vacuo, and the dark brown viscous residue is chromatographed on silica gel (ethyl acetate:petroleum ether=1:1 as eluent). Recrystallization from isopropanol results in 2.5 g of the title compound of m.p. 188°-190° C. (dec.).

reactant | sodium hydride | [H-].[Na+]
reactant | 8-amino-3-formyl-2-methylimidazo[1,2-a]pyridine | 2 g | NC=1C=2N(C=CC1)C(=C(N2)C)C=O | C9H9N3O
reactant | 2-methoxycarbonylamino-6-methylbenzyl bromide | 3.9 g | COC(=O)NC1=C(CBr)C(=CC=C1)C | C10H12BrNO2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 3-Formyl-8-(2-methoxycarbonylamino-6-methylbenzylamino)-2-methylimidazo[1,2-a]pyridine | 2.5 g | C(=O)C1=C(N=C2N1C=CC=C2NCC2=C(C=CC=C2C)NC(=O)OC)C | C19H20N4O3
